US05932606
Step K: 1-t-Butylaminocarbonylmethyl-4-methyl-5-aminomethylimidazole
A solution of 1-t-butylaminocarbonylmethyl-4-methyl-5-azidomethylimidazole (1.27 g, 5.4 mmol) and 10% Pd/C (700 mg) in ethyl acetate (100 ml) was hydrogenated at atmospheric pressure for 5 h. The catalyst was removed by filtration through Celite and the solvents removed in vacuo to give the title compound. 1H NMR (CDCl3) d 1.27 (s, 9 H), 2.23 (s, 3 H), 3.83 (s, 2 H), 4.50 (s, 2 H), 7.08 (br s, 1 H), 7.46 (s, 1 H).

reactant | 1-t-butylaminocarbonylmethyl-4-methyl-5-azidomethylimidazole | 5.4 mmol, 1.27 g | C(C)(C)(C)NC(=O)CN1C=NC(=C1CN=[N+]=[N-])C | C11H18N6O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 700 mg | [Pd] | Pd
product | 1-t-Butylaminocarbonylmethyl-4-methyl-5-aminomethylimidazole | C(C)(C)(C)NC(=O)CN1C=NC(=C1CN)C | C11H20N4O
